US08252783B2
In the first step, D-lysine monohydrochloride reacts with thionyl chloride in the presence of methanol to give methyl-D-lysinate hydrochloride.

reactant | D-lysine monohydrochloride | Cl.N[C@H](CCCCN)C(=O)O
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | CO | CH4O
product | methyl-D-lysinate hydrochloride | Cl.CN[C@H](CCCCN)C(=O)O | InChI=1S/C7H16N2O2.ClH/c1-9-6(7(10)11)4-2-3-5-8;/h6,9H,2-5,8H2,1H3,(H,10,11);1H/t6-;/m1./s1
